* HSPICE file created from DFFRNQNX1.ext - technology: sky130A

.option scale=5m

.subckt DFFRNQNX1 QN D CLK RN VDD GND
X0 GND x1/m1_190_784 x2/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X3 x1/m1_783_709 x1/m1_634_634 x4/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X5 x4/li_393_182 CLK x2/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.18n pd=0.106m as=16.2n ps=0.604m w=600 l=30
X6 VDD x1/m1_190_784 x1/m1_783_709 VDD sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X7 x1/m1_783_709 x1/m1_190_784 VDD VDD sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X8 VDD CLK x1/m1_783_709 VDD sky130_fd_pr__pfet_01v8 ad=0.392u pd=0.016 as=69.6n ps=2.75m w=400 l=30
X9 x1/m1_783_709 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X10 VDD x1/m1_634_634 x1/m1_783_709 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X11 x1/m1_783_709 x1/m1_634_634 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X12 GND x1/m1_783_709 x13/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=64.5n pd=2.21m as=78.2n ps=2.61m w=602 l=30
X14 x1/m1_634_634 RN x15/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X16 x15/li_393_182 D x13/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X17 VDD x1/m1_783_709 x1/m1_634_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X18 x1/m1_634_634 x1/m1_783_709 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X19 VDD D x1/m1_634_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X20 x1/m1_634_634 D VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X21 VDD RN x1/m1_634_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X22 x1/m1_634_634 RN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X23 GND x1/m1_2410_635 x24/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X25 x1/m1_190_784 RN x26/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X27 x26/li_393_182 CLK x24/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X28 VDD x1/m1_2410_635 x1/m1_190_784 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X29 x1/m1_190_784 x1/m1_2410_635 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X30 VDD CLK x1/m1_190_784 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X31 x1/m1_190_784 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X32 VDD RN x1/m1_190_784 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X33 x1/m1_190_784 RN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X34 GND x1/m1_783_709 x35/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X36 QN m1_4273_741 x37/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=52.7n ps=1.92m w=602 l=30
X38 x37/li_393_182 RN x35/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=0 ps=0 w=600 l=30
X39 VDD x1/m1_783_709 QN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X40 QN x1/m1_783_709 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X41 VDD RN QN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X42 QN RN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X43 VDD m1_4273_741 QN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X44 QN m1_4273_741 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X45 GND x1/m1_634_634 x46/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X47 x1/m1_2410_635 x1/m1_190_784 x46/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=0 ps=0 w=602 l=30
X48 VDD x1/m1_634_634 x1/m1_2410_635 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X49 x1/m1_2410_635 x1/m1_634_634 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X50 VDD x1/m1_190_784 x1/m1_2410_635 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X51 x1/m1_2410_635 x1/m1_190_784 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X52 GND QN x53/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X54 m1_4273_741 x1/m1_190_784 x53/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=0 ps=0 w=602 l=30
X55 VDD QN m1_4273_741 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X56 m1_4273_741 QN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X57 VDD x1/m1_190_784 m1_4273_741 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X58 m1_4273_741 x1/m1_190_784 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	dffrnx1_pcell_0
* x2	dffrnx1_pcell_0/nand3x1_pcell_0/nmos_bottom_0
* x4	dffrnx1_pcell_0/nand3x1_pcell_0
* x13	dffrnx1_pcell_0/nand3x1_pcell_1/nmos_bottom_0
* x15	dffrnx1_pcell_0/nand3x1_pcell_1
* x24	dffrnx1_pcell_0/nand3x1_pcell_3/nmos_bottom_0
* x26	dffrnx1_pcell_0/nand3x1_pcell_3
* x35	dffrnx1_pcell_0/nand3x1_pcell_4/nmos_bottom_0
* x37	dffrnx1_pcell_0/nand3x1_pcell_4
* x46	dffrnx1_pcell_0/nand2x1_pcell_0/nmos_bottom_0
* x53	dffrnx1_pcell_0/nand2x1_pcell_1/nmos_bottom_0
